US07728003B2
Step A. 8-Indan-5-yl-5-oxo-2-(3-pyrrolidin-1-yl-propylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure described in Example 1 Step F, the title compound was prepared from 3-pyrrolidin-1-yl-propylamine and 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (from Example 1(Step E), 10 mg, 0.022 mmol). 7 mg of 8-Indan-5-yl-5-oxo-2-(3-pyrrolidin-1-yl-propylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.24 (s, 1H), 8.76 (s, 1H), 7.30 (d, J=7.7 Hz, 1H), 7.21 (s, 1H), 7.14 (d, J=7.7 Hz, 1H), 5.72 (br, 1H), 4.36 (q, J=7.1 Hz, 2H), 3.27 (m, 2H), 2.98 (m, 4H), 2.50 (m, 6H), 2.17 (m, 2H), 1.80 (m, 4H), 1.68 (m, 2H), 1.38 (t, J=7.1 Hz, 3H).

reactant | 3-pyrrolidin-1-yl-propylamine | N1(CCCC1)CCCN | C7H16N2
reactant | 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
product | 8-Indan-5-yl-5-oxo-2-(3-pyrrolidin-1-yl-propylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 7 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCCN2CCCC2)N(C1)C=1C=C2CCCC2=CC1)=O | C26H31N5O3
